US06828466B2
To an airfree flask equipped with a stir bar, in a glove box, was added m-bromochlorobenzene (192 mg, 1.00 mmol), HBPin (200 mg, 1.56 mmol), (Ind)Ir(COD) (8.3 mg, 0.02 mmol), and dmpe (3.0 mg, 0.02 mmol). The flask was sealed, removed for the glove box, and stirred at 150° C. for 3 h. This material was used in next step without purification. To the crude material was added NaOH (1.5 mL of a 1.5M aqueous solution) and the resulting mixture was stirred for 5 minutes. To this was added NaHCO3 (0.73 g, 8.7 mmol) and acetone (3 mL). The mixture was cooled to 0° C. and OXONE (3.2 mL of a 0.33M aqueous solution) was added dropwise. The reaction mixture was stirred at 0° C. for 10 minutes and quenched with sodium bisulfite (2.0 g in 3 ml H2O). The grayish solution was diluted with ether (20 ml), and extracted with aq. 2 M HCl (1×25 ml). The aqueous layer was separated from the organic layer and extracted with ether (2×25 ml). Combined organic layers were washed with water (2×25 ml), dried with MgSO4, and solvents removed under reduced pressure. Crude material was passed through silica plug eluting with CH2Cl2 to give 163.4 mg (78.8%) of 3-bromo-5-chlorophenol as a white solid. In a separate run under the same conditions with twice the scale, 301.2 mg (72.4%) of desired phenol was obtained. mp=68-69° C. 1H NMR (CDCl3, 300 MHz) δ 7.08 (t, J=1.65 Hz, 1H), 6.89 (dd, J=2.2, 1.65 Hz, 1H), 6.78 (dd, J=2.2, 1.65 Hz, 1H), 4.83 (s, 1H). 13C NMR (CDCl3, 125 MHz) δ 156.6, 135.7, 124.1, 122.9, 117.4, 115.0. FT-IR (KBr) 3221, 3159, 3090, 3046, 2927, 2856, 2793, 2659, 2492, 1577, 1486, 1458, 1426, 1376, 1359, 1286, 1239, 1214, 1088, 913, 859, 840, 778, 666 cm−1. MS (rel. int.) m/z 208 (100), 206 (82), 127 (26), 99 (37), 63 (22). Anal. Calcd for C6H4BrClO: C, 34.74; H, 1.94; N, 0.00. Found: C, 35.08; H, 2.03; N, 0.07.

reactant | m-bromochlorobenzene | 1.00 mmol, 192 mg | BrC=1C=C(C=CC1)Cl | C6H4BrCl
reactant | NaHCO3 | 8.7 mmol, 0.73 g | C(=O)(O)[O-].[Na+]
reactant | OXONE | OOS(=O)[O-].[K+]
catalyst | dmpe | 0.02 mmol, 3.0 mg | CP(C)CCP(C)C | C6H16P2
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 3-bromo-5-chlorophenol | 163.4 mg, 78.8% | BrC=1C=C(C=C(C1)Cl)O | C6H4BrClO
